US04835177
Step A: 1,6-Dihydroxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene
To a solution of 1,6-dihydroxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene dihydrochloride (prepared by modification of the process set forth in U.S. Patent 3,009,912) (5.0 g, 0.011 mol) in water (200 ml) was added 0.1 N sodium hydroxide (220 ml, 0.022 mol). The solid that separated out was collected by filtration, washed with water, and dried in vacuo; yield 4.0 g (95%). The 200 MHz NMR spectrum in chloroform-d was in accord with the desired structure. Mass spectrum(fast atom bombardment): m/z 383 (M+H).

reactant | 1,6-dihydroxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene dihydrochloride | Cl.Cl.OC1=C(C=CC2=C(C(=CC=C12)O)CNC1CCCCC1)CNC1CCCCC1
reactant | sodium hydroxide | 0.022 mol, 0.1 N, 220 ml | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 1,6-Dihydroxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene | OC1=C(C=CC2=C(C(=CC=C12)O)CNC1CCCCC1)CNC1CCCCC1 | C24H34N2O2
